US07244745B2
The phenol, 5-[1,3]dioxan-2-yl-2-nitrophenol, used as a starting material was prepared from 4-nitro-3-hydroxybenzaldehyde according to: Belliotti, T. R.; Wustrow, D. J.; Brink, W. A.; Zoski, K. T.; Shih, Y.-H.; Whetzel, S. Z.; Georgic, L. M.; Corbin, A. E.; Akunne, H. C.; Heffner, T. G.; Pugsley, T. A.; Wise, L. D. J. Med. Chem. 1999, 42, 5181. To a solution of the phenol (2.55 g, 11.3 mmol) in dimethylformamide (20 mL) was added potassium carbonate (2.56 g, 18.5 mmol, 1.6 eq) and ethyl bromoacetate (1.5 mL, 14 mmol, 1.2 eq). The reaction mixture was maintained for 18 h at rt and was poured onto ½ saturated brine and extracted with ethyl acetate (3×60 mL). The combined organic layers were washed with water and brine, were dried over sodium sulfate, and were concentrated to provide (5-[1,3]dioxan-2-yl-2-nitrophenoxy)acetic acid ethyl ester as a gold oil. The ester was dissolved in ethanol (63 mL) and was treated with a solution of calcium chloride (1.42 g, 9.66 mmol) in water (19 mL) and with zinc dust (11.0 g, 16.8 mmol). The grey suspension was heated at 100° C. for 3 h and was filtered (hot) through Celite (ethyl acetate wash). The filtrate was concentrated to approximately 25 mL and the slurry was transferred to a separatory funnel containing ethyl acetate (200 mL). The organic layer was separated and concentrated to provide 2.19 g of 6-[1,3]dioxan-2-yl-3,4-dihydro-1H-quinolin-2-one as an oil that solidified upon standing. The amide (2.19 g, 9.31 mmol) was added in portions to a suspension of lithium aluminum hydride (576 mg, 14.2 mmol, 1.5 eq) in tetrahydrofuran (50 mL) over 15 min. The reaction mixture was maintained for 3 h at rt and was quenched with a saturated, aqueous solution of sodium potassium tartrate (10 mL). The resultant slurry was maintained overnight and was diluted with water (40 mL) and extracted with dichloromethane (3×30 mL). The combined organic layers were dried over sodium sulfate, concentrated, and the residue was purified by chromatography (1/1 hexane/ethyl acetate) to provide 1.17 g (57%) of 6-[1,3]dioxan-2-yl-1,2,3,4-tetrahydroquinoline as a 10/1 mixture of the acetal/aldehyde. This amine served as a starting material for examples 59, 61, and 62. A portion of the mixture (144 mg) was dissolved in dichloromethane (5 mL), diluted with 1 N hydrochloric acid (5 mL), and was maintained for 14 h with vigorous stiring. The reaction was neutralized with solid sodium carbonate, extracted with dichloromethane (3×10 mL), and the combined organic layers were dried over sodium sulfate and concentrated. The residue was purified by chromatography (4/1 to 2/1 hexane/ethyl acetate) to provide 87.1 mg (82%) of the aldehyde as a solid. Data: 1H NMR (CDCl3) δ 9.61 (s, 1H), 7.24 (m, 2H), 6.60 (d, J=8.8, 1H), 4.39 (bs, 1H), 4.17 (t, J=4.3, 2H), 3.44 (t, J=4.4, 2H).

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 5-[1,3]dioxan-2-yl-2-nitrophenol | O1C(OCCC1)C=1C=CC(=C(C1)O)[N+](=O)[O-] | C10H11NO5
reactant | 4-nitro-3-hydroxybenzaldehyde | [N+](=O)([O-])C1=C(C=C(C=O)C=C1)O | C7H5NO4
reactant | phenol | 11.3 mmol, 2.55 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 18.5 mmol, 2.56 g, 1.6 eq | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 14 mmol, 1.5 mL, 1.2 eq | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | (5-[1,3]dioxan-2-yl-2-nitrophenoxy)acetic acid ethyl ester | C(C)OC(COC1=C(C=CC(=C1)C1OCCCO1)[N+](=O)[O-])=O | C14H17NO7
